US08258144B2
To a suspension of 4-nitro-N-methylaniline in DCM (10 mL) was added at 0° C. was added Et3N (0.63 mL, 4.5 mmol) and 2-benzoxyacetyl chloride (0.513 mL, 3.3 mmol). After stirring for 15 h at room temperature, the reaction mixture was diluted with EtOAc, washed with Sat. NaHCO3, brine, dried and concentrated to give 2-benzoxy-N-methyl-N-(4-nitrophenyl)acetamide (0.63 g, 70%).

reactant | 4-nitro-N-methylaniline | [N+](=O)([O-])C1=CC=C(NC)C=C1 | C7H8N2O2
reactant | Et3N | 4.5 mmol, 0.63 mL | CCN(CC)CC | C6H15N
reactant | 2-benzoxyacetyl chloride | 3.3 mmol, 0.513 mL | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-benzoxy-N-methyl-N-(4-nitrophenyl)acetamide | 0.63 g, 70% | C(C1=CC=CC=C1)OCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C16H16N2O4
